* OVERALL BEST CANDIDATE: 00_Phase_2_12V_to_60V_Motor_Drive_Boost_g4_cand2_b1
* FITNESS SCORE: 0.6847
*
* Generated: 2026-06-05T00:08:08
* Constraint: Phase 2: 12V to 60V Motor Drive (Boost)
*   vin_min = 11
*   vin_max = 14
*   vout_target = 60
*   efficiency_target = 0.88
*   power_in = 120
* Candidate: 11 of 12
* Grouped name: g4_cand2
*
* 12V to 60V Boost, 120W
Vin in 0 12
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 30
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
